US07544685B2
(S)-3-(2-Bromoethyl)-2,3-dihydro-1H-indole-1-carboxylic acid amide
To a solution of (S)-2-(2,3-dihydro-1H-indol-3-yl)ethanol (23.4 g, 0.14 mol), 37% HCl (aq) (15 mL) and water (15 mL) was added a solution of potassium cyanate (12.6 g, 0.15 mol) in water (85 mL) over a period of 10 min. The resulting mixture was added water (60 mL) and then poured onto a mixture of ice and brine. The aqueous phase was made alkaline by the use of 25% NH3 (aq) and subsequently extracted with ethyl acetate. The combined organic phase was washed with brine and dried (MgSO4). The organic phase was filtered and concentrated in vacuo (19.9 g). The residue was dissolved in tetrahydrofuran (400 mL) and triethylamine (20 mL), which subsequently was cooled to 3° C. To this mixture was added a solution of methanesulfonyl chloride (8.6 mL, 0.11 mol) in tetrahydrofuran (100 mL). The mixture was stirred at room temperature for 30 min, filtered and concentrated in vacuo. The crude product was dissolved in acetone (1400 mL) and lithium bromide (83.8 g, 0.96 mol) was added. The resulting mixture was boiled under reflux for 1 h, filtered and concentrated in vacuo. The residue was purified by flash chromatography (ethyl acetate) and precipitated from ethyl acetate and heptane to give the title compound (8.8 g).

reactant | (S)-2-(2,3-dihydro-1H-indol-3-yl)ethanol | 0.14 mol, 23.4 g | N1C[C@H](C2=CC=CC=C12)CCO | C10H13NO
reactant | HCl | 15 mL | Cl | ClH
reactant | potassium cyanate | 0.15 mol, 12.6 g | [O-]C#N.[K+]
reactant | NH3 | N | H3N
reactant | methanesulfonyl chloride | 0.11 mol, 8.6 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | lithium bromide | 0.96 mol, 83.8 g | [Br-].[Li+]
solvent | water | 85 mL | O | H2O
solvent | brine | [Cl-].[Na+].O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | water | 60 mL | O | H2O
solvent | water | 15 mL | O | H2O
product | (S)-3-(2-Bromoethyl)-2,3-dihydro-1H-indole-1-carboxylic acid amide | 8.8 g | BrCC[C@@H]1CN(C2=CC=CC=C12)C(=O)N | C11H13BrN2O
